US05730954
24. Urea/neopentane
4 g urea were dissolved in 12 ml ethanol at 60° C. The solution was then placed in a high pressure autoclave and subjected to a neopentane pressure of 150 bar. The solution was cooled down from 60° C. to room temperature within 48 h. The solution with h/g crystals was removed from the autoclave, filtered and the h/g crystals were washed with 10 ml cold ethanol. The h/g complex crystals were dried in the vacuum cabinet at 60° C.

reactant | urea | 4 g | NC(=O)N | CH4N2O
reactant | neopentane | CC(C)(C)C | C5H12
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | Urea neopentane | NC(=O)N.CC(C)(C)C | InChI=1S/C5H12.CH4N2O/c1-5(2,3)4;2-1(3)4/h1-4H3;(H4,2,3,4)
